US04282239
N-(4-[2-(1-Oxo-1,2,3,4-tetrahydro-isoquinoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea
5.5 g of 4-(2-[1-oxo-1,2,3,4-tetrahydroisoquinoline-2-carboxamido]-ethyl)-benzenesulfonamide (melting point 197°-198° C., prepared from 1-oxo-1,2,3,4-tetrahydroisoquinoline-2-(N-2-phenylethyl)-carboxamide [melting point 98°-99° C., prepared from 1-oxo-1,2,3,4-tetrahydro-isoquinoline and 2-phenylethyl isocyanate] and chlorosulfonic acid, with subsequent reaction of the sulfochloride with ammonia) are suspended in 75 ml of acetone and 7.5 ml of 2 N sodium hydroxide solution and the mixture is cooled to 0°-5° C. 2.15 g of cyclohexyl isocyanate in 10 ml of acetone are added dropwise, whilst stirring, and the mixture is then stirred for one hour whilst cooling with ice and for three hours at room temperature. The precipitate is dissolved by adding water. After removing the acetone in vacuo, the aqueous solution which remains is acidified with dilute hydrochloric acid. The N-(4-[2-(1-oxo-1,2,3,4-tetrahydro-isoquinoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea which has precipitated is filtered off with suction, reprecipitated once from dilute ammonia solution by means of dilute hydrochloride acid, filtered off with suction, dried and recrystallized from ethanol. The product thus obtained melts at 197°-199° C.

reactant | 4-(2-[1-oxo-1,2,3,4-tetrahydroisoquinoline-2-carboxamido]-ethyl)-benzenesulfonamide | 5.5 g | O=C1N(CCC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N | C18H19N3O4S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sulfochloride | S(=O)(=O)(O)Cl | ClHO3S
reactant | ammonia | N | H3N
reactant | sodium hydroxide | 2 N, 7.5 ml | [OH-].[Na+]
reactant | cyclohexyl isocyanate | 2.15 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(4-[2-(1-Oxo-1,2,3,4-tetrahydro-isoquinoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea | O=C1N(CCC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1 | C25H30N4O5S
